US05559135
A solution of 363 g of methyl 3-allyl-4-hydroxybenzoate in 1.5 L of methanol was hydrogenated for 1 hr in a Parr® type shaker at 40 psi and ambient temperature using 1.5 g of 10% palladium on carbon as the catalyst. The reaction was filterd through Solka-Floc® and the cake washed with 1 L of methanol. The combined filtrate was concentrated and the oil flushed with ether. Hexanes (1.5 L) were added and the resulting suspension cooled to 0° C. The product was collected by filtration, washed with hexanes and dried affording 176.6 g of methyl 4-hydoxy-3-n-propylbenzoate. A second crop of 166.4 g was obtained by concentrating the filtrate, diluting with hexanes and filtering, bringing the total to 343 g (94.3% yield).

reactant | methyl 3-allyl-4-hydroxybenzoate | 363 g | C(C=C)C=1C=C(C(=O)OC)C=CC1O | C11H12O3
solvent | methanol | 1.5 L | CO | CH4O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | methyl 4-hydoxy-3-n-propylbenzoate | 176.6 g, 94.3% yield | OC1=C(C=C(C(=O)OC)C=C1)CCC | C11H14O3
